US06924400B2
(m) (4-{2-[4′-(1-Ethyl-1-hydroxypropyl)-6-methyl-2′-propylbiphenyl-3-yl]ethyl}-2-hydroxymethylphenyl)methanol
In a manner similar to that of Example 1(q), by reacting 300 mg (0.7 mmol) of 1-{5′-[2-(3,4-bis(hydroxymethyl)phenyl)ethyl]-2′-methyl-2-propylbiphenyl-4-yl}propan-1-one with 1.9 ml (5.6 mmol) of ethylmagnesium bromide (3M/ether), and after purification on a column of silica eluted with a mixture of heptane and ethyl acetate (40/60), 180 mg (56%) of (4-{2-[4′-(1-ethyl-1-hydroxypropyl)-6-methyl-2′-propylbiphenyl-3-yl]ethyl}-2-hydroxy-methylphenyl)methanol are obtained in the form of white crystals with a melting point of 76° C.

reactant | 1-{5′-[2-(3,4-bis(hydroxymethyl)phenyl)ethyl]-2′-methyl-2-propylbiphenyl-4-yl}propan-1-one | 0.7 mmol, 300 mg | OCC=1C=C(C=CC1CO)CCC=1C=CC(=C(C1)C1=C(C=C(C=C1)C(CC)=O)CCC)C | C29H34O3
reactant | ethylmagnesium bromide | 5.6 mmol, 3M, 1.9 ml | C(C)[Mg]Br
product | (4-{2-[4′-(1-Ethyl-1-hydroxypropyl)-6-methyl-2′-propylbiphenyl-3-yl]ethyl}-2-hydroxymethylphenyl)methanol | C(C)C(CC)(O)C1=CC(=C(C=C1)C1=CC(=CC=C1C)CCC1=CC(=C(C=C1)CO)CO)CCC | C31H40O3
